US09253997B2
Synthesis of (2S)-2-amino-3-{[(5-chloro-2-hydroxy-3-sulfophenyl)carbamoyl]amino}propanoic acid
297 mg (1 mmol) of 3-amino-N-(tert-butoxycarbonyl)-L-alanine tert-butylester hydrochloride, 223 mg (1 mmol) of 3-amino-5-chloro-2-hydroxybenzenesulfonic acid and 100 mg (0.33 mmol) of triphosgene were suspended in methylene chloride (3 ml), added with 0.8 ml of pyridine, and stirred at room temperature overnight. The solvent was distilled away, and the resultant residue was purified by employing purification step A to obtain the title compound in protected form. To the resulting protected form, 3 ml of trifluoroacetic acid was added, and the resultant was stirred for 5 hours. Subsequently, the solvent was distilled away and the obtained residue was purified using purification step A to obtain the title compound.

reactant | 3-amino-N-(tert-butoxycarbonyl)-L-alanine tert-butylester hydrochloride | 1 mmol, 297 mg | Cl.C(C)(C)(C)OC([C@@H](NC(=O)OC(C)(C)C)CN)=O
reactant | 3-amino-5-chloro-2-hydroxybenzenesulfonic acid | 1 mmol, 223 mg | NC=1C(=C(C=C(C1)Cl)S(=O)(=O)O)O | C6H6ClNO4S
reactant | triphosgene | 0.33 mmol, 100 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | pyridine | 0.8 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | (2S)-2-amino-3-{[(5-chloro-2-hydroxy-3-sulfophenyl)carbamoyl]amino}propanoic acid | N[C@H](C(=O)O)CNC(NC1=C(C(=CC(=C1)Cl)S(=O)(=O)O)O)=O | C10H12ClN3O7S
